US04529736
A 162 g portion of 3,4-dichloroaniline was reacted with 111 g of N-methylmaleimide as described in Example 6, giving 112 g of 2-(3,4-dichlorophenyl)-N-methylmaleimide.

reactant | 3,4-dichloroaniline | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | N-methylmaleimide | 111 g | CN1C(C=CC1=O)=O | C5H5NO2
product | 2-(3,4-dichlorophenyl)-N-methylmaleimide | 112 g | ClC=1C=C(C=CC1Cl)C=1C(=O)N(C(C1)=O)C | C11H7Cl2NO2
